US09145393B2
To a solution of 5-(azetidin-3-ylamino)-N-(4-isopropyl-3-methylphenyl)-6-oxo-1,6-dihydro-[3,4′-bipyridine]-2′-carboxamide hydrochloride (60 mg, 0.14 mmol) in DCM (20 mL) was added acryloyl chloride (0.14 mL, 0.17 mmol) and TEA (0.1 mL, 0.7 mmol)). The mixture was stirred overnight at RT. The reaction was quenched by addition of MeOH (2 mL) and 4M HCl in 1,4-dioxane (2 mL). Water was added, the mixture extracted several times with ethyl acetate, the organic layers dried (MgSO4), filtered and concentrated. The residue was purified by Prep. HPLC (pH<7) and converted to the HCl salt to afford 5-((1-acryloylazetidin-3-yl)amino)-N-(4-isopropyl-3-methylphenyl)-6-oxo-1,6-dihydro-[3,4′-bipyridine]-2′-carboxamide hydrochloride (16 mg, 24% yield) as a yellow solid: 1H NMR (400 MHz, MeOD) δ 8.70 (d, J=4.8 Hz, 1H), 8.37 (d, J=1.2 Hz, 1H), 7.81 (dd, J=1.6, 5.2 Hz, 1H), 7.52 (s, 1H), 7.47 (s, 1H), 7.41 (d, J=1.6 Hz, 1H), 6.92 (s, 1H), 6.74 (d, J=2.4 Hz, 1H), 6.41 (dd, J=10.0, 16.8 Hz, 1H), 6.28 (dd, J=2.0, 16.8 Hz, 1H), 5.78 (dd, J=2.0, 10 Hz, 1H), 4.78-4.81 (m, 1H), 4.52-4.59 (m, 2H), 4.23-4.27 (m, 1H), 4.02-4.04 (m, 1H), 2.90-2.94 (m, 1H), 2.38 (s, 3H), 1.29 (d, J=6.8 Hz, 6H); MS (ES) m/z 472 (M+H).

reactant | 5-(azetidin-3-ylamino)-N-(4-isopropyl-3-methylphenyl)-6-oxo-1,6-dihydro-[3,4′-bipyridine]-2′-carboxamide hydrochloride | 0.14 mmol, 60 mg | Cl.N1CC(C1)NC1=CC(=CNC1=O)C1=CC(=NC=C1)C(=O)NC1=CC(=C(C=C1)C(C)C)C
reactant | acryloyl chloride | 0.17 mmol, 0.14 mL | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-((1-acryloylazetidin-3-yl)amino)-N-(4-isopropyl-3-methylphenyl)-6-oxo-1,6-dihydro-[3,4′-bipyridine]-2′-carboxamide hydrochloride | 16 mg, 24% yield | Cl.C(C=C)(=O)N1CC(C1)NC1=CC(=CNC1=O)C1=CC(=NC=C1)C(=O)NC1=CC(=C(C=C1)C(C)C)C | InChI=1S/C27H29N5O3.ClH/c1-5-25(33)32-14-21(15-32)30-24-12-19(13-29-26(24)34)18-8-9-28-23(11-18)27(35)31-20-6-7-22(16(2)3)17(4)10-20;/h5-13,16,21,30H,1,14-15H2,2-4H3,(H,29,34)(H,31,35);1H
